US07612114B2
(2-Benzothiazol-2-yl-5-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine
To a suspension of lithium aluminum hydride (90 mg) in tetrahydrofuran (5 ml) was added dropwise a solution of N-(2-benzothiazol-2-yl-5-methoxyphenyl)-3-fluoro-4-(2-piperidin-1ylethoxy)benzamide (300 mg) in tetrahydrofuran (1 ml) on an ice bath, and the solution was stirred for 4 hours at room temperature. To the reaction mixture were sequentially added tetrahydrofuran (10 ml), water (0.14 ml), an aqueous solution of 5N sodium hydroxide (0.14 ml) and water (0.42 ml) on an ice bath, the resulting suspension was filtered, and the filtrate was concentrated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-chloroform system) to provide the title compound (120 mg).

reactant | lithium aluminum hydride | 90 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(2-benzothiazol-2-yl-5-methoxyphenyl)-3-fluoro-4-(2-piperidin-1ylethoxy)benzamide | 300 mg | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)OC)NC(C2=CC(=C(C=C2)OCCN2CCCCC2)F)=O | C28H28FN3O3S
reactant | water | 0.14 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2-Benzothiazol-2-yl-5-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine | 120 mg | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)OC)NCC2=CC(=C(C=C2)OCCN2CCCCC2)F | C28H30FN3O2S
